US07309788B2
Preparation of 2-n-butyl-5-ethoxycarbonylmethyl-4-hydroxy-6-methyl-pyrimidine
1.41 kg of valeroamidine and 1.41 kg of diethyl acetylsuccinate were dissolved in 4.5 L of methanol and 1.16 kg of potassium hydroxide was added thereto. The mixture was stirred for 15 hours at room temperature, and then 14 L of water was added while stirring. The obtained solid was filtered, dried, and dissolved in 6 L of ethanol. Then, 840 g of thionyl chloride was added by drop for 2 hours and stirred for 12 hours at 60° C. To this mixture was added a solution of 1.22 kg of sodium bicarbonate in 15 L of water and the produced solid was filtered and dried to obtain 1.35 kg (47.8% yield) of the titled compound.

reactant | valeroamidine | 1.41 kg | C(CCCC)(=N)N | C5H12N2
reactant | diethyl acetylsuccinate | 1.41 kg | C(C)(=O)C(C(=O)OCC)CC(=O)OCC | C10H16O5
reactant | potassium hydroxide | 1.16 kg | [OH-].[K+]
reactant | water | 14 L | O | H2O
solvent | methanol | 4.5 L | CO | CH4O
product | 2-n-butyl-5-ethoxycarbonylmethyl-4-hydroxy-6-methyl-pyrimidine | 1.35 kg, 47.8% yield | C(CCC)C1=NC(=C(C(=N1)O)CC(=O)OCC)C | C13H20N2O3
